US05319092
2 g (8.0 mmle) of 3-t-butyl-5-(methylsulfonylmethylthio)-1H-1,2,4-triazole, 0.8 ml (8.8 mmole) of dimethyl carbamoyl chloride, 1.25 ml (9.0 mmole) of triethylamine and 0.1 g (0.8 mmole) of 4-dirmthylaminopyridine were dissolved in 20 ml of tetrahydrofuran and refluxed for 4 hours. After removal of the solvent the mixture was partitioned between ether and water, dried over magnesium sulfate and concentrated under vaccum. After chromatography on silica gel, trituration with ether afforded 1.4 g of 1-dimethylcarbamoYl-3-t-butyl-5-(methyl-sulfonylmethylthio)-1H-1,2,4-triazole. m.p. 109°-110° C.

reactant | 3-t-butyl-5-(methylsulfonylmethylthio)-1H-1,2,4-triazole | 2 g | C(C)(C)(C)C1=NNC(=N1)SCS(=O)(=O)C | C8H15N3O2S2
reactant | dimethyl carbamoyl chloride | 8.8 mmole, 0.8 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | triethylamine | 9.0 mmole, 1.25 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-dimethylcarbamoYl-3-t-butyl-5-(methyl-sulfonylmethylthio)-1H-1,2,4-triazole | 1.4 g | CN(C(=O)N1N=C(N=C1SCS(=O)(=O)C)C(C)(C)C)C | C11H20N4O3S2
